### PR TITLE
[Merged by Bors] - feat: the restriction of a closed compact set to a subset of coordinates is closed

### PR DESCRIPTION
**Pull request by RemyDegenne**
Part of the formalization of Kolmogorov's extension theorem.
Co-authored-by: Peter Pfaffelhuber

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/IsClosedRestrict.lean [hunk 1]
```diff
@@ -0,0 +1,140 @@
...
+
+open Set
+
+variable {ι : Type*} {α : ι → Type*} {s : Set (Π i, α i)} {i : ι} {S : Set ι}
+
+namespace Homeomorph
+
+open Classical in
+/-- Given a set in a product space `s : Set (Π j, α j)` and a set of coordinates `S : Set ι`,
+`Sᶜ.restrict '' s × (Π i : S, α i)` is a set of functions that coincide with an element of `s`
```
Comment (sgouezel) [inline Mathlib/Topology/IsClosedRestrict.lean:31]:
```suggestion
`Sᶜ.restrict '' s × (Π i : S, α i)` is the set of functions that coincide with an element of `s`
```

File: Mathlib/Topology/IsClosedRestrict.lean [hunk 2]
```diff
@@ -0,0 +1,140 @@
...
+`Sᶜ.restrict '' s` is a compact space since `s` is compact, and the lemma applies,
+with `X = Sᶜ.restrict '' s` and `Y = Π i : S, α i`.
+
+-/
+
+open Set
+
+variable {ι : Type*} {α : ι → Type*} {s : Set (Π i, α i)} {i : ι} {S : Set ι}
+
+namespace Homeomorph
```
Comment (sgouezel) [inline Mathlib/Topology/IsClosedRestrict.lean:27]: I'm not sure it's the right namespace: most of the lemmas below don't deal with homeomorphisms, it's just the final construction which is a homeo.

File: Mathlib/Topology/IsClosedRestrict.lean [hunk 3]
```diff
@@ -0,0 +1,140 @@
...
+  left_inv x := by ext; simp
+  right_inv p := by ext <;> simp
+  continuous_toFun := by
+    refine Continuous.prod_mk ?_ ?_
+    · exact ((Pi.continuous_restrict _).comp continuous_subtype_val).subtype_mk _
+    · rw [continuous_pi_iff]
+      exact fun _ ↦ (continuous_apply _).comp continuous_subtype_val
+  continuous_invFun := continuous_reorderRestrictProd.subtype_mk _
+
+lemma image_snd_preimageImageRestrict [∀ i, TopologicalSpace (α i)] :
```
Comment (sgouezel) [inline Mathlib/Topology/IsClosedRestrict.lean:93]: This lemma might we worth a docstring (notably mentioning `IsCompact.isClosed_image_restrict`)

**Review by sgouezel — COMMENTED** [review]
Looks good, thanks!

File: Mathlib/Topology/IsClosedRestrict.lean (hunk 2 above)
Comment (RemyDegenne) [reply Mathlib/Topology/IsClosedRestrict.lean:27]: I put everything except for the final def in the `Topology` namespace

**Comment by sgouezel** [comment]
bors r+
Thanks!
